US04640708
A mixture of 2-butyryl-5-(3-chloro-1-methyl-5,6,7,8-tetrahydroisoquinolin-4-yl)-3-hydroxycyclohex-2-en-1-one (2.07 g), ethoxyamine hydrochloride (1.1 equiv), sodium hydroxide (1.1 equiv in 0.5 ml water) and ethanol (40 ml) was stirred at room temperature for 3 hr. The mixture was poured into a very dilute hydrochloric acid solution, which was then immediately extracted with diethyl ether. The dried (MgSO4) organic extract was evaporated to give 5-(3-chloro-1-methyl-5,6,7,8-tetrahydroisoquinolin-4-yl-2-[1-(ethoxyimino)butyl]-3-hydroxycyclohex-2-en-1-one as a white solid, mp 141° C. The product was characterized by proton nuclear magnetic resonance spectroscopy and the spectroscopic data is recorded in Table 4, Example 10.

reactant | 2-butyryl-5-(3-chloro-1-methyl-5,6,7,8-tetrahydroisoquinolin-4-yl)-3-hydroxycyclohex-2-en-1-one | 2.07 g | C(CCC)(=O)C=1C(CC(CC1O)C1=C(N=C(C=2CCCCC12)C)Cl)=O | C20H24ClNO3
reactant | ethoxyamine hydrochloride | 1.1 equiv | Cl.C(C)ON
reactant | sodium hydroxide | 0.5 ml, 1.1 equiv | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 40 ml | C(C)O | C2H6O
product | 3-chloro-1-methyl-5,6,7,8-tetrahydroisoquinolin-4-yl-2-[1-(ethoxyimino)butyl]-3-hydroxycyclohex-2-en-1-one | ClC=1N=C(C=2CCCCC2C1C1C(=C(C(CC1)=O)C(CCC)=NOCC)O)C | C22H29ClN2O3
